US04119710
1-(4'-Amino-3'-chloro-5'-cyano-phenyl)-2-sec.butylamino-ethanol,
m.p. of the dihydrochloride: 190°-191° C., was prepared from 4'-amino-2-sec.butylamino-3'-chloro-5'-cyano-acetophenone analogous to Example 48.

reactant | dihydrochloride | C1(=C(C(=C(C(=C1F)F)F)N)F)N.Cl.Cl
reactant | 4'-amino-2-sec.butylamino-3'-chloro-5'-cyano-acetophenone | NC1=C(C=C(C=C1C#N)C(CNC(C)CC)=O)Cl | C13H16ClN3O
product | 1-(4'-Amino-3'-chloro-5'-cyano-phenyl)-2-sec.butylamino-ethanol | NC1=C(C=C(C=C1C#N)C(CNC(C)CC)O)Cl | C13H18ClN3O
